US08614226B2
A slurry of 147 mg (0.5 mmol) 4-chloro-2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine, 171 mg (0.6 mmol) 3-(1-methyl-1H-pyrazol-4-yl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine and 50.4 mg (0.6 mmol) sodium bicarbonate in 1 ml DMF and 0.5 ml water was heated to 80° C. under nitrogen. Then 7.0 mg (0.01 mmol) bis-(triphenylphosphine)-palladium(II)-chloride were added. The reaction mixture was stirred for 16 hours at 80° C. Water was then added to the reaction mixture and the resulting precipitate was filtered off. The residue was chromatographed on a silica gel column with dichloromethane/methanol as eluent yielding 2-(5-chloro-2-fluoro-phenyl)-4-[5-(1-methyl-1H-pyrazol-4-yl)-pyridin-3-yl]-[1,8]naphthyridine als yellow crystals; HPLC-MS: 2.09 min, [M+H] 416.

reactant | 4-chloro-2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine | 0.5 mmol, 147 mg | ClC1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F | C14H7Cl2FN2
reactant | 3-(1-methyl-1H-pyrazol-4-yl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 0.6 mmol, 171 mg | CN1N=CC(=C1)C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O2
reactant | sodium bicarbonate | 0.6 mmol, 50.4 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 0.5 ml | O | H2O
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.01 mmol, 7.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(5-chloro-2-fluoro-phenyl)-4-[5-(1-methyl-1H-pyrazol-4-yl)-pyridin-3-yl]-[1,8]naphthyridine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=NC=C(C1)C=1C=NN(C1)C)F | C23H15ClFN5
